US05576322
2,4-Bisbenzyloxy-6-methoxyquinazoline
3 ml of benzyl alcohol was dissolved in 50 ml of tetrahydrofuran, followed by the addition of 1.0 g of sodium hydride. The obtained mixture was stirred at 40° to 50° C. for 30 minutes, followed by the addition of 2.50 g (0.0109 mol) of 2,4-dichloro-6-methoxyquinazoline. The obtained mixture was heated under reflux for several hours, followed by the addition of water. The obtained mixture was extracted with chloroform and the organic layer was dried over anhydrous magnesium sulfate and filtered. The filtrate was distilled under a reduced pressure to remove the solvent. The obtained crystalline residue was recrystallized from chloroform/n-hexane to give 3.84 g of the title compound as a yellow crystal.

reactant | benzyl alcohol | 3 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | sodium hydride | 1.0 g | [H-].[Na+]
reactant | 2,4-dichloro-6-methoxyquinazoline | 0.0109 mol, 2.50 g | ClC1=NC2=CC=C(C=C2C(=N1)Cl)OC | C9H6Cl2N2O
reactant | water | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2,4-Bisbenzyloxy-6-methoxyquinazoline | 3.84 g, yield (%); 95 | C(C1=CC=CC=C1)OC1=NC2=CC=C(C=C2C(=N1)OCC1=CC=CC=C1)OC | C23H20N2O3
